US08183289B2
2-(4-(4-(4-chlorophenethylcarbamoyl)phenoxy)-3-cyanophenyl)propanoic acid
A flask was charged with tert-butyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-cyanophenyl)propanoate (0.098 g) in 1 ml of dichloromethane and 1 ml of TFA, and the reaction was stirred for 1 hour. The reaction was concentrated and dried under vacuum. Isolated 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-cyanophenyl)propanoic acid (0.080 g). MS+449.1 [M+1].

reactant | tert-butyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-cyanophenyl)propanoate | 0.098 g | ClC1=CC=C(CCNC(=O)C2=CC=C(OC3=C(C=C(C=C3)C(C(=O)OC(C)(C)C)C)C#N)C=C2)C=C1 | C29H29ClN2O4
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-(4-(4-(4-chlorophenethylcarbamoyl)phenoxy)-3-cyanophenyl)propanoic acid | ClC1=CC=C(CCNC(=O)C2=CC=C(OC3=C(C=C(C=C3)C(C(=O)O)C)C#N)C=C2)C=C1 | C25H21ClN2O4
